US07332495B2
IV-26 N1-[(2-benzenesulfonylmethyl)benzyl]-N4-phenacyl piperazine dihydrochloride
A mixture of (2-benzenesulfonylmethyl)-benzyl bromide (0.5 g, 1.54 mmol), N-phenacyl piperazine dihydrochloride (0.32 g, 1.54 mmol) and K2CO3 (0.74 g, 5.38 mmol) in 40 ml of acetone was treated according to general preparation 2 to give 0.4 g of compound (IV-26), yield 50%. M+ 448.

reactant | (2-benzenesulfonylmethyl)-benzyl bromide | 1.54 mmol, 0.5 g | C1=C(C=CC=C1)S(=O)(=O)CC(C1=CC=CC=C1)Br | C14H13BrO2S
reactant | N-phenacyl piperazine dihydrochloride | 1.54 mmol, 0.32 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 5.38 mmol, 0.74 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N1-[(2-benzenesulfonylmethyl)benzyl]-N4-phenacyl piperazine dihydrochloride | 0.4 g, yield 50% | Cl.Cl.C1=C(C=CC=C1)S(=O)(=O)CC(C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C26H28N2O3S.2ClH/c29-26(23-12-6-2-7-13-23)20-27-16-18-28(19-17-27)25(22-10-4-1-5-11-22)21-32(30,31)24-14-8-3-9-15-24;;/h1-15,25H,16-21H2;2*1H
